US04012524
(1-Hydroxy-2-ethyl-3-phenyl-6,7-dichloro-5-indanyloxy)acetic acid is prepared following substantially the same procedure described in Example 1, using the following substances: (1-oxo-2-ethyl-3-phenyl-6,7-dichloro-5-indanyloxy)acetic acid (7.58 g., 0.02 mole); potassium borohydride (2.0 g.); and water (200 ml.). Follwing this procedure, there is obtained (1-hydroxy-2-ethyl-3-phenyl-6,7-dichloro-5-indanyloxy)acetic acid.

reactant | (1-oxo-2-ethyl-3-phenyl-6,7-dichloro-5-indanyloxy)acetic acid | 0.02 mole, 7.58 g | O=C1C(C(C2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C1=CC=CC=C1)CC | C19H16Cl2O4
reactant | potassium borohydride | 2.0 g | [BH4-].[K+]
solvent | water | 200 ml | O | H2O
product | (1-hydroxy-2-ethyl-3-phenyl-6,7-dichloro-5-indanyloxy)acetic acid | OC1C(C(C2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)C1=CC=CC=C1)CC | C19H18Cl2O4
